US04193997
4-Phenyl-6-acetyl-7-oxo-4,5,6,7-tetrahydro-thieno[2,3-c]-pyridine (Derivative n°17)
The compound is prepared according to the procedure of Example 1, from 4-phenyl-6-acetyl-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine, to give white crystals, M.p.=132° C. (cyclohexane-ethyl acetate), Yield: 20%.

reactant | 4-phenyl-6-acetyl-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine | C1(=CC=CC=C1)C1C2=C(CN(C1)C(C)=O)SC=C2 | C15H15NOS
reactant | cyclohexane ethyl acetate | C1CCCCC1.C(C)(=O)OCC
product | 4-Phenyl-6-acetyl-7-oxo-4,5,6,7-tetrahydro-thieno[2,3-c]-pyridine | Yield: 20% | C1(=CC=CC=C1)C1C2=C(C(N(C1)C(C)=O)=O)SC=C2 | C15H13NO2S
